US08026237B2
Sodium thiomethoxide (1.0 g, 14.3 mmol) and 4-bromobenzyl bromide (2.65 g, 10.6 mmol) were combined with anhyd THF (50 mL) and the reaction mixture was stirred at 60° C. After 3h the reaction mixture was concentrated in vacuo and the residue was washed into a separatory funnel with EtOAc and water. The organic layer was separated, dried (anhyd MgSO4), and concentrated in vacuo to yield 1-bromo-4-methylthiomethyl-benzene. To a solution of this crude thioether in DCM (100 mL) was added 3-chloroperoxybenzoic acid (77%, 4.0 g) portionwise. After stirring overnight the reaction mixture was poured into a separatory funnel, washed with 1 N NaOH, dried (Na2SO4), and concentrated in vacuo. The residue was crystallized from EtOAc-Hex to afford 1-bromo-4-methanesulfonylmethyl-benzene (2.02 g, 76%) as light tan needles: 1H-NMR (CDCl3) δ 7.56 (2H, d, J=8 Hz), 7.29 (2H, d, J=8 Hz), 4.20 (2H, s), 2.78 (3H, s); MS (ESI) m/z 249 and 251, both [M+H]+.

reactant | Sodium thiomethoxide | 14.3 mmol, 1.0 g | C[S-].[Na+]
reactant | 4-bromobenzyl bromide | 10.6 mmol, 2.65 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-methylthiomethyl-benzene | BrC1=CC=C(C=C1)CSC | C8H9BrS
